US09108983B2
Step B: N-[4-[tert-Butyl(dimethyl)silyl]oxyphenyl]-1-cyclopropyl-1H-pyrazol-4-amine
4-[tert-Butyl(dimethyl)silyl]oxyaniline (1.64 g, 7.3 mmol) and 4-bromo-1-cyclopropyl-1H-pyrazole (1.4 g, 7.3 mmol) dissolved in anhydrous tetrahydrofuran (30 mL) are stirred for 3 hours at ambient temperature in the presence of sodium tert-butylate (3.7 mL, 2M solution in THF) and chloro(2-di-tert-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]palladium(II) (101 mg, 0.146 mmol). The reaction mixture is filtered over Celite and then evaporated to dryness. The residue is purified by chromatography over silica gel using heptane and ethyl acetate as eluants to yield the expected product.

reactant | 4-[tert-Butyl(dimethyl)silyl]oxyaniline | 7.3 mmol, 1.64 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(N)C=C1 | C12H21NOSi
reactant | 4-bromo-1-cyclopropyl-1H-pyrazole | 7.3 mmol, 1.4 g | BrC=1C=NN(C1)C1CC1 | C6H7BrN2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-[4-[tert-Butyl(dimethyl)silyl]oxyphenyl]-1-cyclopropyl-1H-pyrazol-4-amine | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC=1C=NN(C1)C1CC1 | C18H27N3OSi
